US06528525B1
2-(4-Isopropylphenoxy)-3-[4-[2-[4-(3-nitropyridine-6-yl)benzoylamino]ethoxy]phenyl]propionic acid (exemplification No. 7-228 compound)
In a similar manner to that described in Example 2, ethyl 2-(4-isopropylphenoxy)-3-[4-[2-[4-(3-nitropyridine-6-yl)benzoylamino]ethoxy]phenyl]propionate (397 mg), which is the product of Example 108, was reacted with aqueous sodium hydroxide solution (1N, 1.30 ml) and the reaction mixture was treated to give the title compound (216 mg) as a white powder.

reactant | ethyl 2-(4-isopropylphenoxy)-3-[4-[2-[4-(3-nitropyridine-6-yl)benzoylamino]ethoxy]phenyl]propionate | 397 mg | C(C)(C)C1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=CC=C(C=N2)[N+](=O)[O-])=O)C=C1 | C34H35N3O7
reactant | sodium hydroxide | 1N, 1.30 ml | [OH-].[Na+]
product | 2-(4-Isopropylphenoxy)-3-[4-[2-[4-(3-nitropyridine-6-yl)benzoylamino]ethoxy]phenyl]propionic acid | 216 mg | C(C)(C)C1=CC=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=CC=C(C=N2)[N+](=O)[O-])=O)C=C1 | C32H31N3O7
